US07517532B2
Step 2: 2-(3-chlorobenzyl)-8,9-dihydroxy-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione
To a cold (0° C.) solution of 4-acetylpiperazin-2-one (1.0 g, 7.0 mmol) in DMF (75 mL) under an atmosphere of nitrogen, a solution of lithium bis(trimethylsilyl)-amide in THF (7.7 mL, 7.7 mmol) was added and stirred at the temperature for 30 min. The resultant solution was treated with 3-chlorobenzyl bromide (0.92 mL, 7.0 mmol), and stirred at room temperature overnight. The resultant mixture was cooled to 0° C., treated with a solution of lithium bis(trimethylsilyl)amide in THF (8.4 mL, 8.4 mmol) and stirred for 30 min, and then treated with diethyl oxalate (0.96 mL, 7.0 mmol). The resultant mixture was stirred at room temperature overnight. Additional solution of lithium bis(trimethylsilyl)amide in THF (16.8 mL, 16.8 mmol) was added and stirred for 4 hrs. The product mixture was concentrated under vacuum, and the residue was treated with a mixture of aqueous HCl and ethyl acetate. The white solid precipitated was collected by filtration and was subjected to HPLC purification on C-18 stationary phase eluted with water/acetonitrile/TFA mobile phase. Collection and lyophilization of appropriate fractions provided the title compound.

reactant | 4-acetylpiperazin-2-one | 7.0 mmol, 1.0 g | C(C)(=O)N1CC(NCC1)=O | C6H10N2O2
reactant | lithium bis(trimethylsilyl)-amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | THF | 7.7 mmol, 7.7 mL | C1CCOC1 | C4H8O
reactant | 3-chlorobenzyl bromide | 7.0 mmol, 0.92 mL | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | THF | 8.4 mmol, 8.4 mL | C1CCOC1 | C4H8O
reactant | diethyl oxalate | 7.0 mmol, 0.96 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | THF | 16.8 mmol, 16.8 mL | C1CCOC1 | C4H8O
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 2-(3-chlorobenzyl)-8,9-dihydroxy-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione | ClC=1C=C(CN2C(C=3N(CC2)C(C=C(C3O)O)=O)=O)C=CC1 | C15H13ClN2O4
